US07932272B2
2-(3-Phenylsulfanyl-benzyl)-isoindol-1,3-dione
(3-Phenylsulfanyl-phenyl)-methanol described in Preparation Example 93 (212 mg, 0.980 mmol), phthalimide (144 mg, 0.980 mmol), diethylazodicarboxylate (170 μl, 1.08 mmol) and triphenylphosphine (308 mg, 1.18 mmol) were dissolved in tetrahydrofuran (4 mL), and the solution was stirred overnight at room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1), and the title compound (124 mg, 0.359 mmol, 37%) was obtained as a solid.

reactant | (3-Phenylsulfanyl-phenyl)-methanol | C1(=CC=CC=C1)SC=1C=C(C=CC1)CO | C13H12OS
reactant | phthalimide | 0.980 mmol, 144 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethylazodicarboxylate | 1.08 mmol, 170 μl | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.18 mmol, 308 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-(3-Phenylsulfanyl-benzyl)-isoindol-1,3-dione | 0.359 mmol, 124 mg, 37% | C1(=CC=CC=C1)SC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C21H15NO2S
